### PR TITLE
[Merged by Bors] - feat(LinearAlgebra/AffineSpace/Simplex/Basic): interior of a 0-simplex

### PR DESCRIPTION
**Pull request by jsm28**
Add `simp` lemmas giving the `interior` and `closedInterior` of a 0-simplex.

```lean
@[simp] lemma interior_eq_empty (s : Simplex k P 0) : s.interior = ∅ := by
```

```lean
@[simp] lemma closedInterior_eq_singleton [ZeroLEOneClass k] (s : Simplex k P 0) :
    s.closedInterior = {s.points 0} := by
```

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/LinearAlgebra/AffineSpace/Independent.lean [hunk 1]
```diff
@@ -1144,6 +1144,26 @@ lemma closedInterior_subset_affineSpan {n : ℕ} {s : Simplex k P n} :
...
   exact affineCombination_mem_affineSpan_of_nonempty hw _
 
+@[simp] lemma interior_eq_empty (s : Simplex k P 0) : s.interior = ∅ := by
+  ext p
+  simp only [Simplex.interior, Nat.reduceAdd, univ_unique, Fin.default_eq_zero, Fin.isValue,
+    sum_singleton, Set.mem_Ioo, Set.mem_setOf_eq, Set.mem_empty_iff_false, iff_false, not_exists,
+    not_and]
+  intro w h hi
+  replace hi := hi 0
+  simp [h] at hi
```
Comment (themathqueen) [inline Mathlib/LinearAlgebra/AffineSpace/Independent.lean]:
```suggestion
  simpa [h] using hi 0
```

File: Mathlib/LinearAlgebra/AffineSpace/Independent.lean [hunk 2]
```diff
@@ -1144,6 +1144,26 @@ lemma closedInterior_subset_affineSpan {n : ℕ} {s : Simplex k P n} :
   rintro p ⟨w, hw, hi, rfl⟩
   exact affineCombination_mem_affineSpan_of_nonempty hw _
 
+@[simp] lemma interior_eq_empty (s : Simplex k P 0) : s.interior = ∅ := by
+  ext p
+  simp only [Simplex.interior, Nat.reduceAdd, univ_unique, Fin.default_eq_zero, Fin.isValue,
+    sum_singleton, Set.mem_Ioo, Set.mem_setOf_eq, Set.mem_empty_iff_false, iff_false, not_exists,
+    not_and]
```
Comment (themathqueen) [inline Mathlib/LinearAlgebra/AffineSpace/Independent.lean]: if you want you can just do this instead:
```suggestion
  simp [Simplex.interior]
```

Comment (jsm28) [reply Mathlib/LinearAlgebra/AffineSpace/Independent.lean]: That looks non-terminal (and followed by the rigid tactic `intro`).

Comment (themathqueen) [reply Mathlib/LinearAlgebra/AffineSpace/Independent.lean]: good point, ignore me then :)

**Comment by ocfnash** [comment]
Thanks!

bors d+

**Comment by ocfnash** [comment]
bors merge
